Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Shortness of breath, dizziness, cough
 
Major Surgical or Invasive Procedure:
Right knee arthrocentesis (___)
Right knee intra-articular steroid injection (___)

 
History of Present Illness:
Ms. ___ is an ___ y/o woman with a PMH of CKDV, chronic anemia 
(EPO-dependent), CAD, HFpEF, HTN, T2DM, who presented to the ED 
with shortness of breath, chest discomfort, and dizziness. The 
symptoms have lasted two weeks and have gradually worsened. They 
are worse with exertion. Her daughter states that she has felt 
subjective fevers over the past week with malaise and cough that 
have not improved.
 
In the ED, initial vitals were: T 98.9F BP 182/57 mmHg P 65 RR 
18 O2 99% RA
Labs showed:
CHEMISTRIES:
133  97  68  
------------< 148
5.3  21  4.1  
Ca: 7.6 Mg: 1.8 P: 5.1
CK: 96  MB: 2  Trop-T: 0.03  

CBC:
      7.9   
7.6 >-----< 177  
     24.0  

DIFF: N:75.0 L:15.4 M:7.4 E:1.6 Bas:0.1 ___: 0.5 Absneut: 
5.69 Abslymp: 1.17 Absmono: 0.56 Abseos: 0.12 Absbaso: 0.01 

UA: 600 protein, 100 glucose, neg leuks, neg nitrites, neg 
bacteria

Imaging showed retrocardiac opacity concerning for pneumonia.
Received DuoNeb, ceftriaxone 1g, azithromycin 500 mg, carvedilol 
25 mg. 

Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports felling generally well. 
She denies any shortness of breath, chest pain, abdominal pain, 
diarrhea. She reports being hungry and feeling slightly dizzy 
when she first got to the room.

Review of systems:  
(+) Per HPI  
 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia, +diabetes
2. CARDIAC HISTORY:  
- CABG:  None
- PERCUTANEOUS CORONARY INTERVENTIONS:  None
- PACING/ICD:  None
3. OTHER PAST MEDICAL HISTORY:  
Diabetes mellitus type 2. 
Hypertension. 
CKD (recent 2.3-3.5 earlier in year)
hypercholesterolemia 
iron deficiency anemia 
moderate mitral regurgitation 
peripheral neuropathy 
CAD with remote history of MI

PAST SURGICAL/INVASIVE HISTORY
___ EGD (upper endoscopy)
___ Colonoscopy
___ PRBC transfusion x 1 unit
___ PRBC transfusion x 2 units
EGD ___
COLONOSCOPY ___
 
Social History:
___
Family History:
No kidney disease or heart disease

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vital Signs: 98.2, 192/88, 62, 18, 97% RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear
Neck: Supple, JVP 10  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Diffuse ___  
___: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 1+ pulses, 1+ ___ to the mid shins  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation. 

DISCHARGE PHYSICAL EXAM:
========================
Vital Signs: Afeb, 120-150s/50-60s, 50-60s, 18, 96% RA
I/Os: Even
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear
Neck: Supple, JVP 8
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Diffuse ronchi, poor air movement
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 1+ pulses, trace ankle edema. Swollen 
right knee, no erythema. Pain with passive/active ROM 
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:55AM   ___ PTT-27.3 ___
___ 12:55AM   PLT COUNT-177
___ 12:55AM   NEUTS-75.0* LYMPHS-15.4* MONOS-7.4 EOS-1.6 
BASOS-0.1 IM ___ AbsNeut-5.69 AbsLymp-1.17* AbsMono-0.56 
AbsEos-0.12 AbsBaso-0.01
___ 12:55AM   WBC-7.6 RBC-2.56* HGB-7.9* HCT-24.0* MCV-94 
MCH-30.9 MCHC-32.9 RDW-12.8 RDWSD-43.8
___ 12:55AM   ALBUMIN-3.0* CALCIUM-7.6* PHOSPHATE-5.1* 
MAGNESIUM-1.8
___ 12:55AM   CK-MB-2 cTropnT-0.03*
___ 12:55AM   CK(CPK)-96
___ 12:55AM   estGFR-Using this
___ 12:55AM   GLUCOSE-148* UREA N-68* CREAT-4.1* SODIUM-133 
POTASSIUM-5.3* CHLORIDE-97 TOTAL CO2-21* ANION GAP-20
___ 12:58AM   URINE  RBC-3* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 12:58AM   URINE  BLOOD-NEG NITRITE-NEG PROTEIN-600 
GLUCOSE-100 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:58AM   URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:58AM   URINE  UHOLD-HOLD
___ 12:58AM   URINE  HOURS-RANDOM
___ 02:15AM   OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 02:00PM   URINE  HOURS-RANDOM UREA N-214 CREAT-32
___ 03:30PM   CALCIUM-7.6* PHOSPHATE-4.6* MAGNESIUM-1.7
___ 03:30PM   CK-MB-3 cTropnT-0.04*
___ 03:30PM   GLUCOSE-58* UREA N-66* CREAT-3.9* SODIUM-136 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-22 ANION GAP-18
___ 07:50PM   PLT COUNT-145*
___ 07:50PM   WBC-6.9 RBC-2.49* HGB-7.4* HCT-24.1* MCV-97 
MCH-29.7 MCHC-30.7* RDW-12.4 RDWSD-43.6

DISCHARGE/PERTINENT LABS:
=========================
___ 06:50AM BLOOD WBC-6.3 RBC-3.57* Hgb-10.7* Hct-32.4* 
MCV-91 MCH-30.0 MCHC-33.0 RDW-12.2 RDWSD-40.8 Plt ___
___ 06:50AM BLOOD ___ PTT-27.3 ___
___ 06:50AM BLOOD Glucose-106* UreaN-73* Creat-4.3* Na-136 
K-3.9 Cl-97 HCO3-21* AnGap-22*
___ 03:10PM BLOOD ___
___ 06:50AM BLOOD Calcium-7.5* Phos-6.6* Mg-2.0
___ 09:10PM BLOOD IgG-643* IgA-137 IgM-97 IFE-NO MONOCLO

MICROBIOLOGY:
=============
___ FLUIDGRAM STAIN-FINAL NEGATIVE; FLUID 
CULTURE-PRELIMINARY  NEGATIVE
___ CULTUREBlood Culture, Routine-FINAL 
NEGATIVE
___ CULTUREBlood Culture, Routine-FINAL 
NEGATIVE
___ STAIN-FINAL; RESPIRATORY 
CULTURE-FINALOROPHARYNGEAL FLORA
___ CULTURE-FINAL {PRESUMPTIVE 
STREPTOCOCCUS BOVIS}

IMAGING:
========
___ KNEE W/O CONTRAST RI
1. Large knee joint effusion with associated synovitis.  No 
specific features for gout, however this could be further 
evaluated with arthrocentesis which I understand has been 
performed.
2. Degenerative changes as detailed above.  Tiny area of signal 
abnormality
along the posterior horn of the medial meniscus equivocal for 
small tear.  No large tear or ligamentous injury.
3. Cortical tunneling in the distal femur reflecting 
demineralization without aggressive infiltrative process 
identified.  This accounts for the
radiographic appearance.
   
___ (2 VIEWS) RIGHT
Moderate right knee joint effusion or synovitis.
There is mild degenerative arthritis of the right knee.
Diffuse small lucencies throughout visualized bones, with 
periarticular
spurring, consider disuse osteopenia, reflex sympathetic 
dystrophy or marrow infiltrative/neoplastic process if 
clinically appropriate.
   
___
The left atrial volume index is severely increased. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Doppler parameters 
are most consistent with Grade II (moderate) left ventricular 
diastolic dysfunction. Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis. Mild (1+) aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild (1+) mitral regurgitation is seen. [Due to 
acoustic shadowing, the severity of mitral regurgitation may be 
significantly UNDERestimated.] There is moderate pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
There is an anterior space which most likely represents a 
prominent fat pad. 
   
___ (PORTABLE AP)
No significant interval change since the prior radiograph.
   
___ (PORTABLE AP)
Persistent moderate cardiomegaly and lung hyperinflation.  No 
focal consolidation concerning for pneumonia.
  
___ U.S.
No hydronephrosis.  Atrophic kidneys demonstrating cortical 
thinning
consistent with chronic parenchymal disease.  Simple bilateral 
renal cysts are incidentally noted.
  
___ (PA & LAT)
1.  Persistent moderate cardiomegaly and lung hyperinflation.  
No focal
consolidation concerning for pneumonia.
 
2.  The extent of pulmonary vascular congestion could be 
chronic, as it is
unchanged.
 
Brief Hospital Course:
Ms. ___ is an ___ y/o woman with a past medical history of 
chronic kidney injury (stage V), chronic anemia (EPO-dependent), 
CAD, HFpEF, HTN, and T2DM, who presented with shortness of 
breath, chest discomfort, and dizziness with blood pressures 
>200/90. 

# HFpEF exacerbation | Hypertensive Urgency | Volume Overload:
Initial concern for pneumonia, given possible retrocardiac 
opacity on plain film; however, final read of CXR negative for 
new infiltrate. Influenza negative. Cough with subjective fevers 
at home without leukocytosis. Exam and work-up suggestive of 
volume overload in the setting of diastolic HF and end-stage 
renal disease. TTE showed severe diastolic dysfunction, but no 
significant change from prior. She had minimal troponinemia 
without ischemic EKG changes attributed by cardiology to demand 
and poor renal clearance. Patient was initially started on IV 
hydralazine and nitroglycerin drip and continued on her home 
blood pressure medications (isosorbide 
mononitrate/carvedilol/doxazosin) for blood pressure lowering 
and aggressive diuresis with IV furosemide (80-120mg). She 
diuresed well, with improvement in her shortness of breath and 
lower extremity edema. Renal was consulted and recommended slow 
blood pressure lowering with permissive hypertension and target 
SBP 160s in the first few days with avoidance of DBP lowering 
below the ___. She was subsequently weaned off the nitroglycerin 
drip and the hydralazine and started on amlodipine 5mg daily, 
with improved blood pressure control. Dizziness, which was not 
accompanied by focal neurologic deficits, resolved with improved 
antihypertensive control. At discharge, her blood pressure was 
120-150s/50-60s. She also was started on torsemide 20mg PO daily 
for maintenance diuresis.

# Right Knee Gout: 
Patient developed right knee swelling on ___ in the setting of 
aggressive diuresis. The knee joint was aspirated and sent for 
gram stain, culture, cell counts, and crystal analysis. Crystal 
analysis was consistent with negatively birefringent MSU 
crystals. After a negative gram stain and 36h with negative 
cultures, the knee joint was injected with 40mg of 
methylprednisolone, given limited treatment options otherwise 
(NSAIDs, colchicine suboptimal due to ESRD, systemic prednisone 
suboptimal due to hypertension and fluid overload). Knee X-ray 
showed enlarged joint space and diffuse small lucencies 
throughout visualized bones, with periarticular spurring. MRI 
was obtained and showed changes consistent with osteopenia with 
no concern for malignancy.

# Acute-on-chronic normocytic anemia:
Likely in the setting of ESRD. No evidence of hemolytic anemia. 
Guaiac negative x3. Received 2U of pRBCs for nadir Hgb of 6.6 
for Hgb threshold of 9 per nephrology, with appropriate 
improvement in Hgb. Continued ferrous sulfate 325 mg daily.

# Thrombocytopenia: Platelet count nadired in the 130s, likely 
due to physiologic stress and brief antibiotic treatment on 
admission, normalized prior to discharge without dedicated 
intervention.

# Acute-on-chronic kidney injury (stage V):
Mild elevation of BUN/Cr compared to baseline. At baseline, she 
has declined HD in the past. Most likely cardiorenal in 
etiology, given severe diastolic dysfunction and fluid overload 
on exam in the setting of severe hypertension. FeUrea consistent 
with intrinsic renal disease, which is expected given her stage 
V chronic kidney injury. Nephrology consulted, and patient did 
not need urgent dialysis. Cr remained 4.3 at discharge, likely 
her new baseline in the setting of diuresis.

# Strep bovis bacteriuria: She was found to have asymptomatic 
Strep bovis bacteriuria without pyuria. Antibiotic treatment was 
deferred due to absence of symptoms and lack of clear true UTI. 

CHRONIC ISSUES
# CAD
- continued aspirin 81 mg daily
- continued pravastatin 20 mg qPM
- continued isosorbide mononitrate 60 mg daily

# T2DM
- Humalog insulin sliding scale and glargine 10 units qhs
- held glipizide and sitagliptin

# GERD
- continued pantoprazole 40 mg q24h

TRANSITIONAL ISSUES:
====================
# Patient was started on amlodipine 5mg PO daily and home 
Isosorbide Mononitrate (Extended Release) was increased from 60 
mg to 90 mg daily, with good BP response. Target diastolic BPs 
given CAD and ESRD is >50.
# Patient was started on torsemide 20mg PO daily. ___ require 
uptitration when patient back to regular PO intake at home. 
Please monitor volume status and adjust dose of diuretics as 
needed.
# Simple bilateral renal cysts were incidentally noted on renal 
ultrasound.
# Patient diagnosed with first episode of gout, may require 
urate lowering agent if she develops another episode.
# F/U SPEP/UPEP which was still pending at time of discharge.
# Suggest further evaluation of chronic anemia; note that 
colonoscopy in ___ was inadequate for screening, and she could 
benefit from another colonoscopy if amenable, especially in 
light of Strep bovis bacteriuria, potentially fecal contaminant, 
but clinical significance of which is uncertain.
# Patient was noted to have an elevated protein to creatinine 
ratio of 8.2, please follow up on this issue and consider 
further management per primary nephrologist.
# She does not carry a diagnosis of COPD, but was found to have 
hyperinflation on CXR; could benefit from PFTs as an outpatient.
# New creatinine baseline 4.3.
# Dry weight: 55.3 Kg
# She was given lab script at discharge for reevaluation of CBC 
and chemistries/renal function.

# CODE: Full Code
# CONTACT:
- Name of health care proxy: ___ 
- Relationship: daughter 
- Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO QPM 
2. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
3. GlipiZIDE 5 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Carvedilol 25 mg PO BID 
6. Pantoprazole 40 mg PO Q24H 
7. Aspirin 81 mg PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY 
9. Doxazosin 4 mg PO BID 
10. Sodium Bicarbonate 650 mg PO BID 
11. Glargine 10 Units Bedtime
12. Januvia (SITagliptin) 25 mg oral DAILY 
13. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*2 
2.  Torsemide 20 mg PO DAILY 
RX *torsemide 20 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*2 
3.  Glargine 10 Units Bedtime 
4.  Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Carvedilol 25 mg PO BID  
7.  Doxazosin 4 mg PO BID  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  GlipiZIDE 5 mg PO DAILY  
10.  Januvia (SITagliptin) 25 mg oral DAILY  
11.  Pantoprazole 40 mg PO Q24H  
12.  Polyethylene Glycol 17 g PO DAILY  
13.  Pravastatin 20 mg PO QPM  
14.  Sodium Bicarbonate 650 mg PO BID  
15.Outpatient Lab Work
N18.6

___
Please check CBC, CHEM10.
Fax results to ___, MD at ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
Acute on Chronic Distolic Heart Failure
End-Stage Renal Disease
Right Knee Gout

SECONDARY DIAGNOSES:
====================
Anemia of Renal Disease
Type II Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you. You were admitted to the 
___ because you were short of 
breath and your blood pressure was very elevated. This was 
thought to be related to a large amount of fluid that your body 
had accumulated because of your heart failure and your kidney 
problems. We gave you the same medication in your water pills at 
home, but in intravenous form, which helped improve your 
breathing and lower your blood pressure. We also made changes to 
your home blood pressure medication regimen to ensure that your 
blood pressure remains under control.

While you were in the hospital, you developed right knee pain 
and swelling. We took a small sample of the fluid in your knee 
and analyzed it and found out that you had condition known as 
gout. Gout is due to crystals accumulating in your joints. You 
were treated with a steroid injection in the knee with good 
results. 

Wishing you a speedy recovery,
Your ___ Care Team
 
Followup Instructions:
___